US03982006
b. N-(2,2,6,6-Tetramethyl-4-piperidyl)-3,5-dinitrobenzamide
N-(2,2,6,6-Tetramethyl-4-piperidyl)-3,5-dinitrobenzamide hydrochloride (18.5 g.) is dissolved in water (350 ml.) and the pH adjusted to 11 with 1.0N NaOH. A cream colored precipitate forms and is collected by filtration, washed with water and dried (14.1 g., m.p. 220°-222°, 84% yield).

reactant | N-(2,2,6,6-Tetramethyl-4-piperidyl)-3,5-dinitrobenzamide hydrochloride | 18.5 g | Cl.CC1(NC(CC(C1)NC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)(C)C)C
reactant | NaOH | 1.0N | [OH-].[Na+]
solvent | water | 350 ml | O | H2O
product | N-(2,2,6,6-Tetramethyl-4-piperidyl)-3,5-dinitrobenzamide | 84% yield | CC1(NC(CC(C1)NC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)(C)C)C | C16H22N4O5
